US06384080B1
5-Chlorosulfonyl-2-fluorobenzoic acid (2 g) was dissolved in dichloromethane (20 mL) under nitrogen atmosphere and cooled to 0° C. tert-Butyl 1-piperazinecarboxylate (3.12 g) was added portionwise to the solution at 0° C. and stirred for 3 hours at ambient temperature. The organic solvent was evaporated in vacuo, and the residue was dissolved in 1N-sodium hydroxide solution. The aqueous solution was washed with diethyl ether and acidified with 1N-hydrochloric acid. The precipitates were collected by filtration and washed with water to give 5-[4-(tert-butoxycarbonyl)piperazin-1-ylsulfonyl]-2-fluorobenzoic acid (2.26 g) as a colorless solid substance.

reactant | 5-Chlorosulfonyl-2-fluorobenzoic acid | 2 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H4ClFO4S
reactant | tert-Butyl 1-piperazinecarboxylate | 3.12 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-[4-(tert-butoxycarbonyl)piperazin-1-ylsulfonyl]-2-fluorobenzoic acid | 2.26 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C16H21FN2O6S
